US08754103B2
Step 2. Preparation of 6-(4-(trifluoromethoxy)phenyl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridine
In a 100 mL round-bottom flask 6-bromo-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridine (2.124 g), 4-trifluoromethoxyphenylboronic acid (2.466 g), and sodium carbonate (0.635 g) were suspended in a mixture of DMF (81 mL) and deionized water (9 mL) that was degassed with nitrogen. Tetrakis(triphenylphosphine) palladium (0.462 g) was added and the reaction mixture stirred at 90° C. overnight, concentrated, the residue dissolved in ethyl acetate, and washed with water (2×) and concentrated NaHCO3. The combined organic phase dried over MgSO4 and concentrated, then subjected to gradient chromatography (ethyl acetate/hexane) to produce dark grey solid. The solid was recrystallized from ethyl acetate/hexanes mixture to produce off-white material.

reactant | 6-bromo-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridine | 2.124 g | BrC=1C=CC=2N(C1)C(=NN2)C(F)(F)F | C7H3BrF3N3
reactant | 4-trifluoromethoxyphenylboronic acid | 2.466 g | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
reactant | sodium carbonate | 0.635 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 9 mL | O | H2O
solvent | DMF | 81 mL | CN(C)C=O | C3H7NO
product | 6-(4-(trifluoromethoxy)phenyl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridine | FC(OC1=CC=C(C=C1)C=1C=CC=2N(C1)C(=NN2)C(F)(F)F)(F)F | C14H7F6N3O
